US20010020034A1
To a solution of TMEDA (3.9 mL, 3.0 g, 26 mmol) in THF (33 mL) at −78° C. was added sec butyllithium (20 mL, 1.3 M in hexane, 26 mmol). After stirring for 20 minutes, a solution of tert-butyl-(2,3-difluoro-benzyloxy)-dimethyl-silane (6.0 g, 23 mmol) in 17 mL of THF was added dropwise. After stirring for 1 hour, the solution was added dropwise to a solution of methyl iodide (8 mL) in THF (40 mL) at −20° C. After stirring for 18 hours, the mixture was quenched with saturated aqueous NH4Cl, extracted 3× into ether, and the combined organic layers were dried over MgSO4, filtered and concentrated in vacuo, giving 6.6 g of tert-butyl-(2,3-difluoro-4-methyl-benzyloxy)-dimethyl-silane as a light yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.07 (app. t, 1H, J=7.2 Hz), 6.89 (app. t, 1H, J=7.3 Hz), 4.74 (s, 2H), 2.26 (d, 3H, J= 1.9 Hz), 0.87 (s, 9H), 0.07 (s, 6H) ppm.

reactant | TMEDA | 26 mmol, 3.9 mL, 3.0 g | CN(C)CCN(C)C | C6H16N2
reactant | sec butyllithium | 26 mmol, 1.3 M, 20 mL | C(C)(CC)[Li]
reactant | tert-butyl-(2,3-difluoro-benzyloxy)-dimethyl-silane | 23 mmol, 6.0 g | C(C)(C)(C)[Si](C)(C)OCC1=C(C(=CC=C1)F)F | C13H20F2OSi
reactant | methyl iodide | 8 mL | CI | CH3I
solvent | THF | 33 mL | C1CCOC1 | C4H8O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | tert-butyl-(2,3-difluoro-4-methyl-benzyloxy)-dimethyl-silane | 6.6 g | C(C)(C)(C)[Si](C)(C)OCC1=C(C(=C(C=C1)C)F)F | C14H22F2OSi
